US08859549B2
3-noradamantyl diazomethyl ketone
A solution of (diazomethyl)trimethylsilane (2.70 mL, 5.40 mmol) in Et2O was added to a solution of 3-noradamantanecarbonyl chloride (0.495 g, 2.68 mmol) in acetonitrile (4 mL) and THF (4 mL), stirred at room temperature overnight, diluted with EtOAc, washed with water and brine, dried (Na2SO4), filtered, and concentrated to give 551 mg of crude title compound as a yellow solid: MS (APCI+) M/Z 191 (M+H)+.

reactant | (diazomethyl)trimethylsilane | 5.40 mmol, 2.70 mL | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
reactant | 3-noradamantanecarbonyl chloride | 2.68 mmol, 0.495 g | C1[C@@H]2CC3C[C@H]1CC3(C2)C(=O)Cl | C10H13ClO
solvent | Et2O | CCOCC | C4H10O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-noradamantyl diazomethyl ketone | 551 mg | C1C2CC3CC1CC3(C2)C(=C[N+]#N)[O-] | C11H14N2O
